US07037916B2
To a mixture of 4-tert-butoxycarbonylaminobutyric acid (5 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5.66 g) and triethylamine (7.47 g) in dichloromethane (80 mL) at rt was added 2-propynylamine (1.49 g). After being stirred at rt for 3 h, the mixture was diluted with dichloromethane (80 mL) and washed with 0.5 M HCl (aqueous, 2×), saturated NaHCO)3 (1×) and water (1×). The dichloromethane was dried over sodium sulfate, filtered and evaporated to afford (3-Prop-2-ynylcarbamoyl-propyl)-carbamic acid tert-butyl ester (1.67 g).

reactant | 4-tert-butoxycarbonylaminobutyric acid | 5 g | C(C)(C)(C)OC(=O)NCCCC(=O)O | C9H17NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.66 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 7.47 g | C(C)N(CC)CC | C6H15N
reactant | 2-propynylamine | 1.49 g | C(C#C)N | C3H5N
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | (3-Prop-2-ynylcarbamoyl-propyl)-carbamic acid tert-butyl ester | 1.67 g | C(C)(C)(C)OC(NCCCC(NCC#C)=O)=O | C12H20N2O3
